US06355636B1
To 250 mg of 6-fluoro-4-(4-phenoxy-phenylamino)-[1.7]naphthyridine-3-carbonitrile under an inert atmosphere was added 8 mL of 1 M sodium (2-dimethylamino-ethoxide) in tetrahydrofuran. After refluxing for 2 hours, the reaction was stripped of tetrahydrofuran and water was added. The product was filtered, washed with water, dried, and recrystallized from chloroform/ether/hexanes to give 266 mg (85%) of 6-(2-dimethylamino-ethoxy)-4-(4-phenoxy-phenylamino)-[1.7]naphthyridine-3-carbonitrile as a yellow solid: melting point 159-161° C.; mass spectrum (m/e): M+H 426.0

reactant | 6-fluoro-4-(4-phenoxy-phenylamino)-[1.7]naphthyridine-3-carbonitrile | 250 mg | FC=1C=C2C(=C(C=NC2=CN1)C#N)NC1=CC=C(C=C1)OC1=CC=CC=C1 | C21H13FN4O
reactant | sodium (2-dimethylamino-ethoxide) | 1 M, 8 mL | CN(CC[O-])C.[Na+]
reactant | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 6-(2-dimethylamino-ethoxy)-4-(4-phenoxy-phenylamino)-[1.7]naphthyridine-3-carbonitrile | 266 mg, 85% | CN(CCOC=1C=C2C(=C(C=NC2=CN1)C#N)NC1=CC=C(C=C1)OC1=CC=CC=C1)C | C25H23N5O2
